US07053089B2
A mixture of 1-benzyl-4-hydroxy-piperidine-4-carbonitrile (5.00 g, 19.78 mmol) and BH3.THF (59.35 mmol, 59.35 mL, 1M in THF) was heated at 80° C. for 1 h. Cooled to 0° C. and quenched with conc. HCl (20 mL), the reaction solution was then stirred at rt in 1 h. The reaction solution was basified with 10N NaOH to pH8, and extracted with ethyl acetate (3×100 mL). The combined extracts were washed with water (50 mL), brine (30 mL), dried over Na2SO4, filtered and concentrated in vacuo to give 4-aminomethyl-1-benzyl-piperidin-4-ol. M.S.(M+1):221.31

reactant | 1-benzyl-4-hydroxy-piperidine-4-carbonitrile | 19.78 mmol, 5.00 g | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)O | C13H16N2O
reactant | BH3.THF | 59.35 mmol, 1M, 59.35 mL | B.C1CCOC1
product | 4-aminomethyl-1-benzyl-piperidin-4-ol | NCC1(CCN(CC1)CC1=CC=CC=C1)O | C13H20N2O
